US06495546B1
To N-benzyl-N-[3-(3-cyanopyridin-2-yloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine (480 mg) was added 4N hydrogen chloride in ethyl acetate (5 ml) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After evaporation in vacuo, the residue was dissolved into a mixture of saturated aqueous sodium hydrogencarbonate and ethyl acetate, followed by being made basic with saturated aqueous sodium hydrogencarbonate. After separation, the organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo to give 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)oxy-3-cyanopyridine (339 mg).

reactant | N-benzyl-N-[3-(3-cyanopyridin-2-yloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine | 480 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)OC2=NC=CC=C2C#N)C(=O)OC(C)(C)C | C29H31N3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)oxy-3-cyanopyridine | 339 mg | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)OC2=NC=CC=C2C#N | C24H23N3O
